US08216999B2
(2S)-(1-methylcyclohexyl) {[(pent-4-en-1-yloxy)carbonyl]amino}acetic acid was prepared according to the procedure for 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine by using (2S)-amino(1-methylcyclohexyl)acetic acid-HCl instead of t-butylglycine. LRMS (ESI) m/z 347.3 [(M+Na+CH3CN)+; calcd for C17H28N2NaO4: 347.2].

reactant | 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine | CC([C@H](NC(=O)OCCCC=C)C(=O)O)(C)C | C12H21NO4
reactant | (2S)-amino(1-methylcyclohexyl)acetic acid-HCl | Cl.N[C@H](C(=O)O)C1(CCCCC1)C
product | (2S)-(1-methylcyclohexyl) {[(pent-4-en-1-yloxy)carbonyl]amino}acetic acid | CC1(CCCCC1)[C@@H](C(=O)O)NC(=O)OCCCC=C | C15H25NO4
